US04636516
By following the same procedure as in Example 8 using 3.4 g of 2-amino-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-methyl-1-butanone hydrochloride, 1.6 g of sodium thiocyanate, 1 ml of concentrated hydrochloric acid, and 31 ml of acetic acid and recrystallizing the reaction product from water-containing isopropanol, 0.8 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-isopropyl-2-thioxo-4-imidazoline was obtained.

reactant | 2-amino-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-methyl-1-butanone hydrochloride | 3.4 g | Cl.NC(C(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)C
reactant | sodium thiocyanate | 1.6 g | [S-]C#N.[Na+]
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | acetic acid | 31 ml | C(C)(=O)O | C2H4O2
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-isopropyl-2-thioxo-4-imidazoline | 0.8 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NC1C(C)C)=S | C20H30N2OS
